* COMPONENT BREAK TEST: healthy_baseline
.INCLUDE real_components.lib

* Power supplies
V_SUPPLY vcc 0 DC 12
V_LOGIC vdd 0 DC 15

* Reference & tachometer
V_REF ref_in 0 PULSE(0 15 0 10N 10N 2.27M 4.545M)
V_TACH tach_raw 0 SIN(0 50M 220 0 0)

* Virtual ground
R_VG1 vdd vgnd 10K
R_VG2 vgnd 0 10K
C_BIAS vgnd 0 10U IC=7.5

* Signal conditioner
C_AC tach_raw tach_ac 1U

* R8 - INPUT RESISTOR (test point)
.PARAM R8_VAL = 1K
R8 tach_ac opamp_inn {R8_VAL}

* R9 - FEEDBACK RESISTOR
.PARAM R9_VAL = 100K
R9 opamp_inn cond_pre {R9_VAL}

* Op-amp
X_U2 vgnd opamp_inn vdd 0 cond_pre LM358
B_COND cond_out 0 V=V(cond_pre)

X_C3 vdd 0 CAP_CER_100N

* Comparator
X_COMP_INV1 cond_out comp_int vdd 0 CMOS_INV
X_COMP_INV2 comp_int comp_out vdd 0 CMOS_INV

* Phase detector
X_PC1 ref_in comp_out vdd 0 pd_out CD4046_PC1

* Loop filter
.PARAM R3_VAL = 100K
R3 pd_out loop_filt {R3_VAL}
X_C2 loop_filt c2_mid CAP_ELEC_10U
R_C2_LEAK c2_mid 0 100MEG

* H-bridge
R_DRIVE1 loop_filt base_q1 1K
R_DRIVE2 loop_filt base_q2 1K

.PARAM R_BIAS1_VAL = 4.7K
R_BIAS1 vcc base_q1 {R_BIAS1_VAL}
R_BIAS2 base_q2 0 4.7K

Q1 vcc base_q1 q1_emit 2N3055
R_Q1_DAMAGE q1_emit motor_p 0.01
Q2 motor_n base_q2 0 MJ2955

R_DRIVE3 loop_filt base_q3 1K
R_DRIVE4 loop_filt base_q4 1K
R_BIAS3 vcc base_q3 4.7K
R_BIAS4 base_q4 0 4.7K

Q3 vcc base_q3 motor_n 2N3055
Q4 motor_p base_q4 0 MJ2955

* Flyback diodes
D1 motor_p vcc 1N4001
D2 0 motor_p 1N4001
D3 motor_n vcc 1N4001
D4 0 motor_n 1N4001

* Motor
R_MOTOR motor_p motor_bemf 20
V_BEMF motor_bemf motor_n DC 0
R_SENSE motor_n motor_gnd 0.1
V_SENSE motor_gnd 0 DC 0

.OPTIONS RELTOL=0.01 ABSTOL=1N VNTOL=1M ITL1=500 ITL4=100

.CONTROL
set filetype=ascii

* Apply parameter changes
* No changes

reset
TRAN 1U 100M UIC
WRDATA healthy_baseline.dat V(loop_filt) V(motor_p,motor_n) I(V_SENSE) V(cond_out) V(cond_pre) V(opamp_inn) V(vgnd) V(tach_ac)

ECHO "healthy_baseline complete"
.ENDC
.END
